US07713994B2
(4E)-4-(Methoxymethylene)-1,3-dioxo-1,2,3,4-tetrahydroisoquinoline-6-carboxylic acid
Trimethyl orthoformate (0.114 mL, 1.04 mmol) is added to a solution of 1,3-Dioxo-1,2,3,4-tetrahydro-isoquinoline-6-carboxylic acid (102.5 mg, 0.5 mmol) in acetic anhydride (0.8 mL) and N,N-dimethylformamide (0.2 mL). After it is heated at 125° C. for 30 min, it is cooled and filtered to collected 75 mg (60%) of the title compound as a yellow solid. MS (ESI) m/z 246.1 (M−1).

reactant | Trimethyl orthoformate | 1.04 mmol, 0.114 mL | C(OC)(OC)OC | C4H10O3
reactant | 1,3-Dioxo-1,2,3,4-tetrahydro-isoquinoline-6-carboxylic acid | 0.5 mmol, 102.5 mg | O=C1NC(CC2=CC(=CC=C12)C(=O)O)=O | C10H7NO4
solvent | acetic anhydride | 0.8 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | N,N-dimethylformamide | 0.2 mL | CN(C=O)C | C3H7NO
product | (4E)-4-(Methoxymethylene)-1,3-dioxo-1,2,3,4-tetrahydroisoquinoline-6-carboxylic acid | CO\C=C/1\C(NC(C2=CC=C(C=C12)C(=O)O)=O)=O | C12H9NO5
